US07332485B2
N-Benzyloxy-N-{1-[N′-(4-Trifluoromethyl-Pyrimidin-2-yl)-Hydrazinocarbonyl]-Cycloheptylmethyl}-Formamide
To a mixture of 1-[(Benzyloxy-formyl-amino)-methyl]-cycloheptanecarboxylic acid (0.10 g, 0.33 mmol), 2-hydrazino-4-(trifluoromethyl)pyrimidine (0.07 g, 0.39 mmol), NMM (0.10 g, 1.0 mmol) and HOAt (0.053 g, 0.39 mmol) in DMF (1 mL) at room temperature was added 1-[3-(dimethylamino)-propyl]-3-ethylcarbodiimide hydrochloride (0.075 g, 0.34 mmol). After stirring at room temperature 18 h, the reaction mixture was then purified by preparative, reverse-phase HPLC to afford the title compound as a white solid (0.11 g, 72%). MH+466.

reactant | 1-[(Benzyloxy-formyl-amino)-methyl]-cycloheptanecarboxylic acid | 0.33 mmol, 0.10 g | C(C1=CC=CC=C1)ON(C=O)CC1(CCCCCC1)C(=O)O | C17H23NO4
reactant | 2-hydrazino-4-(trifluoromethyl)pyrimidine | 0.39 mmol, 0.07 g | N(N)C1=NC=CC(=N1)C(F)(F)F | C5H5F3N4
reactant | NMM | 1.0 mmol, 0.10 g | CN1CCOCC1 | C5H11NO
reactant | HOAt | 0.39 mmol, 0.053 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 1-[3-(dimethylamino)-propyl]-3-ethylcarbodiimide hydrochloride | 0.34 mmol, 0.075 g | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-Benzyloxy-N-{1-[N′-(4-Trifluoromethyl-Pyrimidin-2-yl)-Hydrazinocarbonyl]-Cycloheptylmethyl}-Formamide | 0.11 g, 72% | C(C1=CC=CC=C1)ON(C=O)CC1(CCCCCC1)C(=O)NNC1=NC=CC(=N1)C(F)(F)F | C22H26F3N5O3
